US09376433B2
To a solution of 2-iodo-benzoic acid methyl ester (1.31 g, 5.00 mmol) in DMF (10 ml) are added bis(triphenylphosphine)-palladium(II)-chloride (351 mg, 0.50 mmol), copper(I) iodide (28.5 mg, 0.15 mmol), triethylamine (2.08 ml, 15.0 mmol) and 1-bromo-4-ethynyl-benzene (905 mg, 5.00 mmol). The resulting dark brown solution is flushed with nitrogen, heated to 80° C. and stirred in a closed reaction vial at this temperature for 16 hours. The reaction mixture is allowed to cool to room temperature and partitioned between water and dichloromethane. The organic phase is washed with 1 N HCl, dried over sodium sulfate and evaporated under vacuum. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 2-(4-bromo-phenylethynyl)-benzoic acid methyl ester as brown oil; HPLC/MS 3.46 min (B), [M+H] 315/317.

reactant | 2-iodo-benzoic acid methyl ester | 5.00 mmol, 1.31 g | COC(C1=C(C=CC=C1)I)=O | C8H7IO2
reactant | triethylamine | 15.0 mmol, 2.08 ml | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-4-ethynyl-benzene | 5.00 mmol, 905 mg | BrC1=CC=C(C=C1)C#C | C8H5Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)-palladium(II)-chloride | 0.50 mmol, 351 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I) iodide | 0.15 mmol, 28.5 mg | [Cu]I
product | 2-(4-bromo-phenylethynyl)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)C#CC1=CC=C(C=C1)Br)=O | C16H11BrO2
